US04889941
(a) 2-(4-Penten-1-oxy)tetrahydropyran
Concentrated HCl (0.03 ml) was added dropwise over 25 minutes (slightly exothermic) to a solution of dihydropyran (5.37 g, 64 mmol) and 4-penten-1-ol (5.0 g, 58 mmol) while stirring. At RT the reaction mixture was stirred for two hours. The solution was washed with a saturated sodium carbonate solution and dried over anhydrous potassium carbonate, thus affording 8.6 g (87% yield) of a light yellow oil.

reactant | HCl | 0.03 ml | Cl | ClH
reactant | dihydropyran | 64 mmol, 5.37 g | O1CCCC=C1 | C5H8O
reactant | 4-penten-1-ol | 58 mmol, 5.0 g | C(CCC=C)O | C5H10O
product | 2-(4-Penten-1-oxy)tetrahydropyran | 8.6 g, 87% yield | C(CCC=C)OC1OCCCC1 | C10H18O2
